US07605272B2
To a solution of 2-methylsulfanylbenzoic acid methyl ester (0.30 g, 1.7 mmol) in toluene (3.0 mL), diisobutylaluminum hydride (0.94 mol/L toluene solution, 3.9 mL, 3.7 mmol) was added dropwise at −78° C. and the solution was stirred for 3.5 hours. The reaction mixture was added with 2-propanol (0.20 mL), warmed to 0° C., and added with saturated aqueous potassium sodium tartrate solution to separate the mixture into organic layer and aqueous layer. The obtained organic layer was concentrated under reduced pressure and the residue was purified by silica gel chromatography (hexane/ethyl acetate=90/10 to 70/30) to obtain (2-methylsulfanylphenyl)methanol (0.22 g, 87%).

reactant | 2-methylsulfanylbenzoic acid methyl ester | 1.7 mmol, 0.30 g | COC(C1=C(C=CC=C1)SC)=O | C9H10O2S
reactant | diisobutylaluminum hydride | 3.7 mmol, 0.94 mol/L, 3.9 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-propanol | 0.20 mL | CC(C)O | C3H8O
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | (2-methylsulfanylphenyl)methanol | 0.22 g, 87% | CSC1=C(C=CC=C1)CO | C8H10OS
